US07982071B2
Alternatively, (R)-3-Amino-1-(3-(cyclohexylmethoxy)phenyl)propan-1-ol was prepared by the following procedure. Borane-methyl sulfide complex (2.80 L, 31.3 mol) was charged to a solution of 3-(3-(cyclohexylmethoxy)phenyl)-3-hydroxypropanenitrile (6.20 kg, 23.9 mol) in THF (17.9 L) keeping the temperature below 67° C. and allowing methyl sulfide/THF to distill off. Once the addition was complete the methyl sulfide/THF distillation was continued until ˜6 L has been collected. The removed volume was replaced by charging 6 L additional THF. The reaction mixture was heated at reflux (66-68° C.) until the reaction was found to be complete by HPLC (usually ˜2 h). The reaction mixture was cooled to ˜15° C. and the reaction quenched by the addition of 8.1 L of 3 N hydrochloric acid while keeping the temperature below 50° C. The resulting mixture was allowed to cool to ambient temperature while stirring for 18-24 h. The pH of the reaction mixture was adjusted to 12 by the addition of ˜2.1 L of 50% aq. sodium hydroxide in portions, diluted with 9 L of water, and extracted with 25 L of MTBE. The organic solution was washed with 20 L of 1 N aq. sodium hydroxide, 20 L of 5% aq. sodium chloride, and 10 L of 25% aq. sodium chloride. The MTBE solution was dried over 1 kg of anhydrous sodium sulfate and filtered to remove the drying agent. An additional 6 L of MTBE was used to aid in the filtration. (R)-Mandelic acid (3.60 kg, 23.7 mol) was added to the combined filtrates and this mixture was heated to ˜50° C. Once a clear homogeneous solution was observed the mixture was allowed to cool. Seed crystals (6.0 g) were added at 40° C. The mixture was further cooled to 10° C., the product was collected by filtration and washed with two 3 L portions of MTBE. The product was dried in a vacuum oven at 30-35° C. to yield 3.60 kg (36.4%) of (R)-3-amino-1-(3-(cyclohexylmethoxy)phenyl)propan-1-ol mandelate as a white crystalline solid. (R)-3-Amino-1-(3-(cyclohexylmethoxy)phenyl)propan-1-ol mandelate (3.60 kg) was dissolved in 25.2 L of water/2-propanol (9:1) by heating to 55-60° C. The solution was slowly cooled and seeded with 5.5 g seed crystals at 50-52° C. This mixture was cooled to 10° C., the product collected by filtration, and washed with two 3.6 L portions of water/2-propanol (9:1). The white crystalline solid was dried in a vacuum oven at 30-35° C. to give 3.40 kg (91.6%) of (R)-3-amino-1-(3-(cyclohexylmethoxy)phenyl)propan-1-ol mandelate. A solution of (R)-3-amino-1-(3-(cyclohexylmethoxy)phenyl)propan-1-ol mandelate (3.25 kg, 7.82 mol) in 17 L isopropyl acetate (iPrOAc) was extracted twice with 1 N aq. sodium hydroxide (17 L and 8.5 L) followed by 25% aq. sodium chloride (8.5 L) and dried over 300 g of anhydrous sodium sulfate. This solution was filtered to remove the drying agent and polished by filtration through a secondary 0.45 micron filter. Additional iPrOAc (6.0 L) was used to aid in the filtration. The combined filtrates were warmed to 40° C. and hydrogen chloride in 2-propanol (4.52 M, 2.10 L, 9.49 mol) was added while keeping the temperature between 40 and 50° C. An additional 11 L iPrOAc were added and the mixture was cooled to 0-5° C. The product was collected by filtration, washed with two 1.7 L portions of iPrOAc, and dried in a vacuum oven (35-45° C.) to yield 2.10 kg (89.4%) (R)-3-amino-1-(3-(cyclohexylmethoxy)phenyl)propan-1-ol hydrochloride.

reactant | (R)-3-amino-1-(3-(cyclohexylmethoxy)phenyl)propan-1-ol mandelate | 7.82 mol, 3.25 kg | C(C(O)C1=CC=CC=C1)(=O)O[C@H](CCN)C1=CC(=CC=C1)OCC1CCCCC1 | C24H31NO4
reactant | sodium chloride | 8.5 L | [Cl-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | 2-propanol | 9.49 mol, 4.52 M, 2.10 L | CC(C)O | C3H8O
solvent | isopropyl acetate | 17 L | C(C)(=O)OC(C)C | C5H10O2
solvent | sodium hydroxide | 1 N, 17 L | [OH-].[Na+]
solvent | iPrOAc | 11 L | C(C)(=O)OC(C)C | C5H10O2
product | (R)-3-amino-1-(3-(cyclohexylmethoxy)phenyl)propan-1-ol hydrochloride | 2.10 kg, 89.4% | Cl.NCC[C@@H](O)C1=CC(=CC=C1)OCC1CCCCC1 | InChI=1S/C16H25NO2.ClH/c17-10-9-16(18)14-7-4-8-15(11-14)19-12-13-5-2-1-3-6-13;/h4,7-8,11,13,16,18H,1-3,5-6,9-10,12,17H2;1H/t16-;/m1./s1
